US07262212B2
Sodium triacetoxyborohydride (1.67 g, 7.89 mmol) was added to a solution of 4-(trifluoromethoxy)-benzaldehyde (1 g, 5.26 mmol) and 4-hydroxy piperidine (798 mg, 7.89 mmol) in acetonitrile (2 ml) while cooling in an ice-bath, and the mixture was stirred for 30 minutes, and then at room temperature overnight. The reaction mixture was poured into 7.5% sodium bicarbonate aqueous solution and extracted with ethyl acetate twice. The extract was washed with water and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (methylene chloride/methanol 10/1) to afford 1-(4-trifluoromethoxybenzyl)piperidin-4-ol (1.21 g, yield 84%) as a pale yellow oil.

reactant | Sodium triacetoxyborohydride | 7.89 mmol, 1.67 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-(trifluoromethoxy)-benzaldehyde | 5.26 mmol, 1 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | 4-hydroxy piperidine | 7.89 mmol, 798 mg | OC1CCNCC1 | C5H11NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 1-(4-trifluoromethoxybenzyl)piperidin-4-ol | 1.21 g, yield 84% | FC(OC1=CC=C(CN2CCC(CC2)O)C=C1)(F)F | C13H16F3NO2
